US05063228
3,4-Dihydro-4-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one (E)-2-butendioate (2:3).
A mixture of 4.0 g (0.015 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazole-1(2H)-one, 2.93 g (0.015 mol) of 1-(2-methoxyphenyl)piperazine, 9 g of NaHCO3, 0.5 g of Kl, and 30 mL of DMF was heated on a steam cone for 18 h. The reaction mixture was poured into 400 mL of H2O and extracted with 2×100 mL CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated by rotary evaporation. The resulting oil was purified by preparative HPLC eluting with acetone and using silica gel as the stationary phase. Like fractions were combined and concentrated by rotary evaporation to an oil. The oil was treated with fumaric acid in 2-propanol to give 3.7 g (42%) of the salt, mp 100°-108° C. dec.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazole-1(2H)-one | 0.015 mol, 4.0 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
reactant | 1-(2-methoxyphenyl)piperazine | 0.015 mol, 2.93 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaHCO3 | 9 g | C(=O)(O)[O-].[Na+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | 400 mL | O | H2O
product | 3,4-Dihydro-4-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one (E)-2-butendioate | 3.7 g, 42% | C(\C=C\C(=O)O)(=O)O.COC1=C(C=CC=C1)N1CCN(CC1)CCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | InChI=1S/C24H29N5O2.C4H4O4/c1-26-17-18(23-25-19-7-3-4-8-20(19)29(23)24(26)30)11-12-27-13-15-28(16-14-27)21-9-5-6-10-22(21)31-2;5-3(6)1-2-4(7)8/h3-10,18H,11-17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
